US07214802B2
N-[3-Methanesulfonylamino-2-methoxy-5-(1-methyl-cyclopropyl)-phenyl]-3-[4-(5-methoxy-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzamide
Example 12 was prepared by coupling 3-[4-(5-methoxy-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzoic acid with N-[3-amino-2-methoxy-5-(1-methyl-cyclopropyl)-phenyl]-methanesulfonamide (U.S. Ser. No. 04/102,492) in the same manner as Example 1. ESI MS m/z 563 [C28H30N6O5S+H]+.

reactant | 3-[4-(5-methoxy-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzoic acid | COC=1C=C(C=NC1)C=1N=NN(C1)C=1C=C(C(=O)O)C=CC1C | C16H14N4O3
reactant | N-[3-amino-2-methoxy-5-(1-methyl-cyclopropyl)-phenyl]-methanesulfonamide | NC=1C(=C(C=C(C1)C1(CC1)C)NS(=O)(=O)C)OC | C12H18N2O3S
product | N-[3-Methanesulfonylamino-2-methoxy-5-(1-methyl-cyclopropyl)-phenyl]-3-[4-(5-methoxy-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzamide | CS(=O)(=O)NC=1C(=C(C=C(C1)C1(CC1)C)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1C=NC=C(C1)OC)=O)OC | C28H30N6O5S
